US04057573
A solution of 2.8 g of 1-hydroxymethyl-5-benzoyl-6-hydroxy-indane-1carboxylic acid methyl ester in 12 ml of 2 N sodium hydroxide solution and 50 ml of methanol is heated to the reflux temperature for 5 hours. It is then evaporated in vacuo to a volume of approx. 10 ml and the evaporation residue is partitioned between twice 50 ml of water and 50 ml of ether. The aqueous phases are combined, acidifed to pH 1 with concentrated hydrochloric acid and extracted with twice 50 ml of ether. The organic extracts are washed until neutral, dried over sodium sulphate and evaporated to dryness in vacuo. Chromatography of the evaporation residue on 100 g of silica gel using ether as the eluting agent gives pure 1-hydroxymethyl-5-benzoyl-6-hydroxy-indane-1-carboxylic acid in the form of yellow crystals of melting point 104°-110° C.

reactant | 1-hydroxymethyl-5-benzoyl-6-hydroxy-indane-1carboxylic acid methyl ester | 2.8 g | COC(=O)C1(CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O)CO | C19H18O5
solvent | sodium hydroxide | 2 N, 12 ml | [OH-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1-hydroxymethyl-5-benzoyl-6-hydroxy-indane-1-carboxylic acid | OCC1(CCC2=CC(=C(C=C12)O)C(C1=CC=CC=C1)=O)C(=O)O | C18H16O5
